US07678798B2
5-(1,3-Thiazol-2-yl)indan-1-ol
To a solution of 2-(1-{[tert-butyl(dimethyl)silyl]oxy}-2,3-dihydro-1H-inden-5-yl)-1,3-thiazole (630 mg, 1.9 mmol) in tetrahydrofuran (10.00 mL) was added a 1.00 M solution of tetrabutylammonium fluoride, trihydrate in tetrahydrofuran (1.90 mL) at 0° C. The ice bath was removed and the reaction mixture was stirred at room temperature for 1 h. The mixture was diluted with ether, washed with saturated NaCl aqueous solution, dried over anhydrous MgSO4, filtered and evaporated under reduced pressure to afford the desired product (410 mL, 99%).

reactant | 2-(1-{[tert-butyl(dimethyl)silyl]oxy}-2,3-dihydro-1H-inden-5-yl)-1,3-thiazole | 1.9 mmol, 630 mg | [Si](C)(C)(C(C)(C)C)OC1CCC2=CC(=CC=C12)C=1SC=CN1 | C18H25NOSSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10.00 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.90 mL | O1CCCC1 | C4H8O
product | 5-(1,3-Thiazol-2-yl)indan-1-ol | 410 mL, 99% | S1C(=NC=C1)C=1C=C2CCC(C2=CC1)O | C12H11NOS
